US04076938
73.0 g of 2-isopropylhydrazinecarboxylic acid ethyl ester and 42.0 g of sodium bicarbonate are stirred into 200 ml of methylene chloride and 400 ml of water. There is then introduced at room temperature in the course of 20 minutes, with continuous stirring, 30.8 g of gaseous cyanogen chloride. After an hour's stirring, the methylene chloride base is separated, dried over sodium sulphate and the solvent is distilled off in vacuo. There is obtained as residue 75.0 g (87.5% of theory) of 2-isopropyl-2-cyanohydrazinecarboxylic acid ethyl ester as colourless oil.

reactant | 2-isopropylhydrazinecarboxylic acid ethyl ester | 73.0 g | C(C)OC(=O)NNC(C)C | C6H14N2O2
reactant | sodium bicarbonate | 42.0 g | C([O-])(O)=O.[Na+]
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
reactant | cyanogen chloride | 30.8 g | N#CCl | CClN
solvent | water | 400 ml | O | H2O
product | 2-isopropyl-2-cyanohydrazinecarboxylic acid ethyl ester | 75.0 g, 87.5% | C(C)OC(=O)NN(C#N)C(C)C | C7H13N3O2
